US06599902B2
Synthesis of 5-[(E)-3-Chloro-2-(1-chloro-vinyl)-penta-2,4-diene-1-sulfonyl]-3-[-1-{4-[3-((R)-3-hydroxy-pyrrolidin-1-yl)-3-oxo-propyl]-3,5-dimethyl-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
A mixture of 3-{5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-propionic acid (267 mg), (R)-pyrrolidin-3-ol (2 eq.), HATU (1.2 eq.) and TEA (0.2 mL) in DMF (2 mL) was stirred at rt for 2 hours. The reaction was concentrated, diluted with DCM, washed with water (2×), sodium carbonate (2×), dried and concentrated. The residue was purified on a silica gel column to give 16 mg of the titled compound as a yellow solid.

reactant | 3-{5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-propionic acid | 267 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CCC(=O)O)C | C25H22Cl2N2O5S
reactant | (R)-pyrrolidin-3-ol | 2 eq. | N1C[C@@H](CC1)O | C4H9NO
reactant | HATU | 1.2 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-[(E)-3-Chloro-2-(1-chloro-vinyl)-penta-2,4-diene-1-sulfonyl]-3-[-1-{4-[3-((R)-3-hydroxy-pyrrolidin-1-yl)-3-oxo-propyl]-3,5-dimethyl-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | 16 mg | Cl/C(=C(\CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)CCC(=O)N1C[C@@H](CC1)O)C)/C(=C)Cl)/C=C | C29H31Cl2N3O5S
